US06177440B1
A suspension of 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one (527.0 mg, 2.17 mM), 3-chlorobenzyl bromide (802.2 mg, 3.90 mM), a catalytic amount of sodium iodide (ca. 1 mg), and potassium carbonate (500.0 mg, 3.62 mM) was stirred at room temperature for 150 hours. The mixture was diluted with ethyl acetate, washed five times with H2O, once with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with gradient methylene chloride/ethyl acetate) to afford 537.1 mg (67%) of the 9-[(3-chlorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one as a yellow foam. 1H NMR (CDCl3) δ 7.5-7.2 (m, 5H), 7.1 (s, 1H), 6.85 (m, 1H), 5.35 (s, 2H), 4.05 (s, 3H), 2.9 (t, 2H, J=6 Hz), 2.65 (t, 2H, J=6 Hz), and 2.3 (m, 2H). IR (CHCl3, cm−1) 3050, 2950, 1725, 1654, 1464, 1444, 1432, 1288 and 1120. MS (ES) m/e 366, 368, 370.

reactant | 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one | 2.17 mM, 527.0 mg | C(=O)(OC)C1=C2C=3C(CCCC3NC2=CC=C1)=O | C14H13NO3
reactant | 3-chlorobenzyl bromide | 3.90 mM, 802.2 mg | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | potassium carbonate | 3.62 mM, 500.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | sodium iodide | ca. 1 mg | [I-].[Na+]
product | 9-[(3-chlorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 537.1 mg, 67% | ClC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC | C21H18ClNO3
